US07094801B2
4-[3E-(2-Pyrrolidin-1-yl-5-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid
The title compound was prepared by condensing 2-pyrrolidin-1-yl-5-thiophen-2-yl-benzaldehyde (Ex-63A) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Red solid, mp 208–209° C. 1H-NMR (DMSO-d6) δ 12.50 (bs, 1H), 8.22 (d, J=8.5 Hz, 2H), 8.09–7.99 (m, 4H), 7.73 (d, J=15.5 Hz, 1H), 7.52–7.41 (m, 3H), 7.10–7.07 (m, 1H), 6.93 (d, J=9.0 Hz, 1H), 3.28 (m, 4H), 1.87 (m, 4H).

reactant | 2-pyrrolidin-1-yl-5-thiophen-2-yl-benzaldehyde | N1(CCCC1)C1=C(C=O)C=C(C=C1)C=1SC=CC1 | C15H15NOS
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-[3E-(2-Pyrrolidin-1-yl-5-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid | N1(CCCC1)C1=C(C=C(C=C1)C=1SC=CC1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1 | C24H21NO3S
